* PSpice Model Editor - Version 16.6.0

*$
*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Corporation.
* Models developed and under copyright by:
* National Semiconductor, Corporation. 
*/////////////////////////////////////////////////////////////////////
* Legal Notice: 
* The model may be copied, and distributed without any modifications;
* however, reselling or licensing the material is illegal.
* We reserve the right to make changes to the model without prior notice.
* Pspice Models are provided "AS IS, WITH NO WARRANTY OF ANY KIND"
*////////////////////////////////////////////////////////////////////
* For more information, and our latest models,
* please visit the models section of our website at
*       http://www.national.com/models/
*////////////////////////////////////////////////////////////////////
* Rev 1.0 Public Release 11 APR 2011 - DG/PCG
*--------------------------------------------------------------------------------------
.SUBCKT    LMP8645    OUT  VEE  IN1  IN2  RG  VCC   
*--------------------------------------------------------------------------------------
EOFFSET IN1  INNAA POLY(1)  TCVos   0  1E-3  -7E-6
ECMRR  INNAA  INNXX CMRROUT 0 1
EPSRR  INNXX  INNYY PSRROUT 0 1
E_OTA  INNZZ  0  VALUE {if( V(IN1)>(-2),(V(INNYY)-V(IN2)),0) }
G_OTA  INNYY  RG  INNZZ  0 200E-6
EsatRG1 st1 0 VALUE {if( V(IN1) < 1.79999 , 1.8 , 0 ) }
EsatRG2 st2 0 VALUE {if( (V(IN1)> 1.79999)&(V(IN1)< (V(VCC)+0.0001)) , min((V(VCC)-1.5),(V(IN1)-V(INNZZ)-0.25)) , 0 ) }
EsatRG3 st3 0 VALUE {if( V(IN1) > (V(VCC)+0.0001) , V(VCC)-1.5 , 0 ) }
Esat stA 0 VALUE {V(st1) + V(st2) + V(st3)}
D19  RG    N220 DIODEIDEAL 
VDDDROP   N220   NDROP -0.6 
EVDDREF    NDROP  0  stA  0  1.00
D20    N221 RG  DIODEIDEAL 
VEEREF N221 0  0.6
.MODEL DIODEIDEAL D IS=1E-14
I_IBIAS1 IN1   0  12E-6
I_IBIAS2 IN2   0  12E-6
*--------------------------------------------------------------------------------------
CINBUF      RG  0      19E-12  
ESLEWTABLE  INSLWCTRL     0      TABLE {V(VCC_NORIPPLE)}
+  2.7V    10E-19
+  4.0V    20E-12
+  5.0V    35E-12
+ 12.0V    25E-12
G_SLEWRATECONTROL       RG  0    VALUE {V(INSLWCTRL)*DDT(V(RG))}
*--------------------------------------------------------------------------------------
EBUFOUT  BUFOUT  0    VALUE {if(V(RG)<20E-3,20E-3,V(RG)) }
RBUFOUT  BUFOUT  OUT  100
E_TABLEOUTMAXCTRL  OUT_MAX_CONTROL     0     TABLE {V(VCC_NORIPPLE)}
+  2.7V  1.20V  
+  5.0V  3.30V
+ 12.0V 10.20V
*--------------------------------------------------------------------------------------
E_SUM_CMAVG        NCMRR1  0  VALUE {0.5*{V(IN1)+V(IN2)}}
E_ECMRRCONTROL     CTRLCMRR  0  TABLE {V(IN1)}
+ -2.0V   40E-6
+  2.1V   10E-7
+  5.0V   4E-8
+ 70.0V   0.2E-8
G_CMRR        CMRRSIG    0    VALUE {V(CTRLCMRR)*V(NCMRR1)}
R_RCMRR1 NCMRR3  CMRRSIG   1E3 
L_LCMRR1 NCMRR3  CMRRSIG   159E-3  
R_RCMRR2 NCMRR3 0     10 
E_ECMRROUT         CMRROUT    0      CMRRSIG    0     1.00
*
*--------------------------------------------------------------------------------------
E_EPSRRINPOS        NPSRRPOS1 0 VCC 0 1
C_CSUPFILTERPOS     NPSRRPOS1 NPSRRPOS2  1E-3
R_RSUPFILTERPOS     NPSRRPOS2 0  1E15 
G_GPSRRPOS          NPSRRPOS4 0 NPSRRPOS2 0 3.65E-6
R_RPSRRPOS2         NPSRRPOS3 0 10 
R_RPSRRPOS1         NPSRRPOS3 NPSRRPOS4  10k
L_LPSRRPOS1         NPSRRPOS3 NPSRRPOS4  159E-3  
*
E_EPSRRINNEG        NPSRRNEG1 0 VEE 0 1
C_CSUPFILTERNEG     NPSRRNEG1 NPSRRNEG2  1E-3 
R_RSUPFILTERNEG     NPSRRNEG2 0  1E15 
G_GPSRRNEG          NPSRRNEG4 0 NPSRRNEG2 0 3.65E-6
R_RPSRRNEG1         NPSRRNEG3 NPSRRNEG4  10E3 
R_RPSRRNEG2         NPSRRNEG3 0 10
L_LPSRRNEG1         NPSRRNEG3 NPSRRNEG4  159E-3  
*
E_SUMPSRR PSRROUT 0 VALUE {V(NPSRRPOS4)+V(NPSRRNEG4)}
*--------------------------------------------------------------------------------------
E_EPosSupply      VCC_NORIPPLE 0 VCC 0 1
E_ENegSupply      VEE_NORIPPLE 0 VEE 0 1
*--------------------------------------------------------------------------------------
G_GVsupDepIsup          VCC VEE SUPDEPNODE 0 1E-4
E_TABLE_SUPDEPCURRENT   SUPDEPNODE 0 TABLE {V(VCC)}
+  0.0V     0.00V  
+  2.0V     3.60V  
+  2.7V     2.945V
+  3.0V     2.30V  
+  5.0V     2.92V  
+ 12.0V     1.71V
R_RIsupplyStatic    VCC VEE  31.6E3 
G_GPUDEPENDENTSUPPLYCURRENT   VCC VEE TABLE {V(IN1)}
+  -2V,  1612E-6
+ 1.6V,   0
*--------------------------------------------------------------------------------------------------------- 
I_ITH1       0   NTHERM1  DC 1E-6  
I_ITH2       0   NTHERM2  DC 1E-6  
D_DTHERMAL1  NTHERM1  0   DIODEIDEAL
D_DTHERMAL2  NTHERM2  0   DIODEIDEAL 
D_DTHERMAL3  NTHERM2  0   DIODEIDEAL
E_ETCNVRSN1  NTHERM3  0   NTHERM1  NTHERM2  1.67386293783563E4
V_VTEMP1     NTHERM4  0   273
E_ETCNVRSNa  TCVos  0   NTHERM3  NTHERM4  1
*--------------------------------------------------------------------------------------
.ENDS LMP8645
*$
