* PSpice Model Editor - Version 16.6.0

*$
* created using Model Editor release 16.6.0 on 01/21/16 at 20:27
*DEVICE=d4,D
.subckt d4 AN CAT 
+ params:
+ AREA=1.0
+ IS=1e-20
+ RS=0.3
+ N=1.1
+ TT=2.541e-9
+ CJO=12e-12
+ VJ=0.7
+ M=0.05
+ BV=2.2
+ IBV=1e-3
D_d4 AN CAT model22 {area} 
.model model22 d
+ is={IS}
+ rs={RS}
+ n={N}
+ tt={TT}
+ cjo={CJO}
+ vj={VJ}
+ m={M}
+ bv={BV}
+ ibv={IBV}
.ends d4
*$
* updated using Model Editor release 16.6.0 on 01/21/16 at 19:52
*DEVICE=d2,D
.subckt d2 AN CAT 
+ params:
+ AREA=1.0
+ IS=1e-20
+ RS=0.241
+ N=1.1
+ TT=2.541e-9
+ CJO=1.5e-12
+ VJ=0.59
+ M=0.01
+ IBV=1e-3
D_d2 AN CAT model22 {area} 
.model model22 d
+ is={IS}
+ rs={RS}
+ n={N}
+ tt={TT}
+ cjo={CJO}
+ vj={VJ}
+ m={M}
+ ibv={IBV}
.ends d2
*$
* created using Model Editor release 16.6.0 on 01/21/16 at 19:50
*DEVICE=d3,D
.subckt d3 AN CAT 
+ params:
+ AREA=1.0
+ IS=1.66e-13
+ RS=0.06
+ N=1.1
+ TT=2.541e-9
+ CJO=288e-12
+ VJ=0.53
+ M=0.17
+ BV=2.89
+ IBV=1e-3
D_d3 AN CAT model22 {area} 
.model model22 d
+ is={IS}
+ rs={RS}
+ n={N}
+ tt={TT}
+ cjo={CJO}
+ vj={VJ}
+ m={M}
+ bv={BV}
+ ibv={IBV}
.ends d3
*$
* created using Model Editor release 16.6.0 on 01/21/16 at 19:48
*DEVICE=d1,D
.subckt d1 AN CAT 
+ params:
+ AREA=1.0
+ IS=1e-20
+ RS=0.138
+ N=1.1
+ TT=2.541e-9
+ CJO=1.5e-12
+ VJ=0.63
+ M=0.01
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=0.5
+ BV=100
+ IBV=1e-3
D_d1 AN CAT model22 {area} 
.model model22 d
+ is={IS}
+ rs={RS}
+ n={N}
+ tt={TT}
+ cjo={CJO}
+ vj={VJ}
+ m={M}
+ eg={EG}
+ xti={XTI}
+ kf={KF}
+ af={AF}
+ fc={FC}
+ bv={BV}
+ ibv={IBV}
.ends d1
*$
